US08008303B2
(3-Bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester
A mixture of 3-bromo-4-trifluoromethoxy-phenylamine (250 mg) and Boc anhydride (430 mg) in methanol (4 ml) containing triethylamine (0.26 ml) was stirred at 20 C for 18 h. The mixture was then partitioned between 1M HCL and ethyl acetate. The dried extracts were then evaporated giving the title compound as an off-white solid (250 mg).

reactant | 3-bromo-4-trifluoromethoxy-phenylamine | 250 mg | BrC=1C=C(C=CC1OC(F)(F)F)N | C7H5BrF3NO
reactant | Boc anhydride | 430 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.26 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 4 ml | CO | CH4O
product | (3-Bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)OC(F)(F)F)Br)=O | C12H13BrF3NO3
